US05763552
Sodium 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoate was dissolved in water with vigorous stirring and 6N aqueous hydrochloric acid was added slowly to adjust the pH of the solution to about 1.0, and then ether was added to extract the product. The organic layer was separated, washed with water, and dried over magnesium sulfate. After removal of the solvent in vacuo, the residue was dried under high vacuum to give quantitative yield of 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoic acid, formula above, as a white solid having a melting point of 45°-46° C.

reactant | Sodium 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoate | FC(C(C(=O)[O-])(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F)(F)F.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoic acid | quantitative yield | FC(C(C(=O)O)(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F)(F)F | C9H5F13O2
